US09108983B2
Step B: 4-Bromo-1-methyl-1H-pyrrole-2-carbonitrile
N-Bromosuccinimide (6.2 g, 34.9 mmol) is added to a solution of 1-methyl-1H-pyrrole-2-carbonitrile (3.7 g, 34.9 mmol) in N,N-dimethylformamide (150 mL). The solution is stirred for 15 hours at ambient temperature. Another amount of N-bromosuccinimide (2.0 g, 11 mmol) is added and the mixture is stirred for 3 hours. Silica (7 g) is then added and the suspension is then evaporated to dryness. The material pre-absorbed onto the silica is placed on a silica gel column and the product is purified by chromatography over silica gel using ethyl acetate and heptane as eluants to obtain the expected product in the form of a solid.

reactant | N-Bromosuccinimide | 34.9 mmol, 6.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1-methyl-1H-pyrrole-2-carbonitrile | 34.9 mmol, 3.7 g | CN1C(=CC=C1)C#N | C6H6N2
reactant | N-bromosuccinimide | 11 mmol, 2.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 4-Bromo-1-methyl-1H-pyrrole-2-carbonitrile | BrC=1C=C(N(C1)C)C#N | C6H5BrN2
